US05338755
A) Sodium 4-allyloxyphenylsulfonate
30 g of sodium phenylsulfonate are dissolved in 60 ml of ethanol and 50 ml of 15% sodium hydroxide, 20 g of allyl bromide are added and the mixture is refluxed for 48 hours. The ethanol is concentrated and the precipitate obtained is filtered off and then dried under vacuum in the presence of phosphorus pentoxide to give 23.3 g of the expected product.

reactant | sodium phenylsulfonate | 30 g | C1(=CC=CC=C1)S(=O)(=O)[O-].[Na+]
reactant | allyl bromide | 20 g | C(C=C)Br | C3H5Br
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 50 ml | [OH-].[Na+]
product | Sodium 4-allyloxyphenylsulfonate | 23.3 g | C(C=C)OC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+] | InChI=1S/C9H10O4S.Na/c1-2-7-13-8-3-5-9(6-4-8)14(10,11)12;/h2-6H,1,7H2,(H,10,11,12);/q;+1/p-1
